US05519034
Decanoyl chloride (0.66 g) in dichloromethane (5 ml) was added to a stirring mixture of (+)-1-[1-(2-chlorophenyl)cyclobutyl]-6-fluoro-7-hydroxy-2-methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide (1.5 g, prepared in a similar manner to that described in Example 64), triethylamine (1.06 g) and dichloromethane (25 ml). The mixture was stirred at ambient temperature for 20 minutes, then water (20 ml) was added and stirring continued for 1 hour. The organic layer was washed with saturated aqueous sodium bicarbonate solution, water and brine, then dried over magnesium sulphate, filtered and concentrated in vacuo to yield (-)-1-[1-(2-chlorophenyl)cyclobutyl]-7-decanoyloxy-6-fluoro-2-methyl-1,2,3,4-tetrahydroisoquinoline (1.31 g). This had a specific optical rotation αD of -5.59°.

reactant | Decanoyl chloride | 0.66 g | C(CCCCCCCCC)(=O)Cl | C10H19ClO
reactant | (+)-1-[1-(2-chlorophenyl)cyclobutyl]-6-fluoro-7-hydroxy-2-methyl-1,2,3,4-tetrahydroisoquinoline hydrobromide | Br.ClC1=C(C=CC=C1)C1(CCC1)C1N(CCC2=CC(=C(C=C12)O)F)C
reactant | triethylamine | 1.06 g | C(C)N(CC)CC | C6H15N
reactant | water | 20 ml | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | (-)-1-[1-(2-chlorophenyl)cyclobutyl]-7-decanoyloxy-6-fluoro-2-methyl-1,2,3,4-tetrahydroisoquinoline | 1.31 g | ClC1=C(C=CC=C1)C1(CCC1)C1N(CCC2=CC(=C(C=C12)OC(CCCCCCCCC)=O)F)C | C30H39ClFNO2
